US07452911B2
3.64c 3-(4-chloro-phenyl)-6-ethynyl-pyridazine
1.10 g (3.49 mmol) TBAF are added at 0° C. to a solution of 1.00 g (3.49 mmol) 3-(4-chloro-phenyl)-6-trimethylsilanylethynyl-pyridazine in 10 mL DCM. The ice bath is removed and the reaction solution is stirred for 30 min. Water is added and the aqueous phase is extracted with EtOAc. The organic phase is dried over MgSO4 and the solvent is eliminated i.vac. The product is reacted without any further purification.

reactant | TBAF | 3.49 mmol, 1.10 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | 3-(4-chloro-phenyl)-6-trimethylsilanylethynyl-pyridazine | 3.49 mmol, 1.00 g | ClC1=CC=C(C=C1)C=1N=NC(=CC1)C#C[Si](C)(C)C | C15H15ClN2Si
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-chloro-phenyl)-6-ethynyl-pyridazine | ClC1=CC=C(C=C1)C=1N=NC(=CC1)C#C | C12H7ClN2
